US08309562B2
2-{4-[(3,4-Dimethoxy-phenyl)-methyl-amino]-quinazolin-2-ylamino}-ethanol
A mixture of (2-chloro-quinazolin-4-yl)-(3,4-dimethoxy-phenyl)-methyl-amine hydrochloride (63 mg; 0.172 mmol) and ethanolamine (32 μL; 0.53 mmol) in n-butanol (2 mL) was heated at 110° C. for 24 h then concd in vacuo. The material was partitioned between DCM (5 mL) and satd NaHCO3 (3 mL). The organic layer was dried (MgSO4), filtered through silica and washed with 100:10:1 CHCl3:MeOH:concd NH4OH, concd then purified by pTLC (EM-13793; 100:10:1 CHCl3:MeOH:concd NH4OH) yielding a pale yellow glass (52 mg; 85%). 1H NMR (CDCl3) δ 7.44-7.34 (m, 2H), 6.88 (m, 1H), 6.84 (d, J=8.4 Hz, 1H), 6.75-6.67 (m, 3H), 5.42 (t(br), 1H), 3.91 (s, 3H), 3.91 (m, 2H), 3.79 (s, 3H), 3.68 (m, 2H), 3.50 (s, 3H); LC-MS (ESI+; 355 ([M+H]+).

reactant | (2-chloro-quinazolin-4-yl)-(3,4-dimethoxy-phenyl)-methyl-amine hydrochloride | 0.172 mmol, 63 mg | Cl.ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC(=C(C=C1)OC)OC
reactant | ethanolamine | 0.53 mmol, 32 μL | C(O)CN | C2H7NO
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 2-{4-[(3,4-Dimethoxy-phenyl)-methyl-amino]-quinazolin-2-ylamino}-ethanol | COC=1C=C(C=CC1OC)N(C1=NC(=NC2=CC=CC=C12)NCCO)C | C19H22N4O3
